US04814343
alpha-(6-Chloro-2,2-dimethyl-4H-1,3-benzodioxin-8-yl)-alpha-methyl-1-triphenylmethyl-1H-imidazole-4-methanol
This compound is prepared like the preceding compound starting from methyl magnesium iodide and (6-chloro-2,2-dimethyl-4H-1,3-benzodioxin-8-yl)(1-triphenylmethyl-1H-imidazol-4-yl)ketone. The residue obtained after evaporation of the dichloromethane crystallizes when stirred in diethyl ether. Yield: 80% of theory; M.P.: 182°-184° C. (recrystallized from ethyl acetate).

reactant | methyl magnesium iodide | C[Mg]I
reactant | (6-chloro-2,2-dimethyl-4H-1,3-benzodioxin-8-yl)(1-triphenylmethyl-1H-imidazol-4-yl)ketone | ClC1=CC2=C(OC(OC2)(C)C)C(=C1)C(=O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C33H27ClN2O3
product | alpha-(6-Chloro-2,2-dimethyl-4H-1,3-benzodioxin-8-yl)-alpha-methyl-1-triphenylmethyl-1H-imidazole-4-methanol | Yield: 80% | ClC1=CC2=C(OC(OC2)(C)C)C(=C1)C(O)(C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C34H31ClN2O3
